US08426411B2
To a solution of (2R,4S)-tert-butyl 4-(cyclopropanesulfonamido)-2-ethylpyrrolidine-1-carboxylate (0.95 g, 2.98 mmol, Preparation #15) in 1,4-dioxane (7.5 mL) was added HCl (4 N in 1,4-dioxane, 7.46 mL, 29.8 mmol). The reaction mixture was heated to about 60° C. After about 4 h, the reaction mixture was cooled to ambient temperature and concd in vacuo to provide crude N-((3S,5R)-5-ethylpyrrolidin-3-yl)cyclopropanesulfonamide hydrochloride (0.38 g, 50%) as a brown residue: LC/MS (Table 1, Method a) Rt=0.63 min; MS m/z: 219 (M+H)+.

reactant | (2R,4S)-tert-butyl 4-(cyclopropanesulfonamido)-2-ethylpyrrolidine-1-carboxylate | 2.98 mmol, 0.95 g | C1(CC1)S(=O)(=O)N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CC | C14H26N2O4S
reactant | HCl | 29.8 mmol, 4 N, 7.46 mL | Cl | ClH
solvent | 1,4-dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
product | N-((3S,5R)-5-ethylpyrrolidin-3-yl)cyclopropanesulfonamide hydrochloride | 0.38 g, 50% | Cl.C(C)[C@@H]1C[C@@H](CN1)NS(=O)(=O)C1CC1 | InChI=1S/C9H18N2O2S.ClH/c1-2-7-5-8(6-10-7)11-14(12,13)9-3-4-9;/h7-11H,2-6H2,1H3;1H/t7-,8+;/m1./s1
